US07074777B2
(1) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-{4-ethyl-4-(triethylsilyloxy)hexylthiomethyl}androsta-5,7,16-triene
To a solution of 17-acetylthiomethyl-1α,3β-bis(tert-butyldimethylsilyloxy)androsta-5,7,16-triene (274 mg, 0.454 mmol) and 1-bromo-4-ethyl-4-(triethylsilyloxy)hexane (294 mg, 0.909 mmol) in tetrahydrofuran (2 ml), was added a 1M potassium hydroxide methanol solution (3 ml) under a nitrogen atmosphere, followed by stirring at room temperature for 5 min. The thus obtained reaction mixture was partitioned by adding ethyl acetate and water. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and evaporated to remove the solvent under reduced pressure. The thus obtained residue was purified by column chromatography (hexane:toluene=6:1) to give the titled compound (333 mg, 91%) as a colorless oil.

reactant | 17-acetylthiomethyl-1α,3β-bis(tert-butyldimethylsilyloxy)androsta-5,7,16-triene | 0.454 mmol, 274 mg | C(C)(=O)SCC=1[C@]2(C)[C@@H](CC1)C1=CC=C3C[C@H](C[C@@H]([C@]3(C)[C@H]1CC2)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C34H58O3SSi2
reactant | 1-bromo-4-ethyl-4-(triethylsilyloxy)hexane | 0.909 mmol, 294 mg | BrCCCC(CC)(O[Si](CC)(CC)CC)CC | C14H31BrOSi
reactant | potassium hydroxide methanol | 1M, 3 ml | CO.[OH-].[K+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-{4-ethyl-4-(triethylsilyloxy)hexylthiomethyl}androsta-5,7,16-triene | 333 mg, 91% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CSCCCC(CC)(O[Si](CC)(CC)CC)CC)O[Si](C)(C)C(C)(C)C | C46H86O3SSi3
